US07411072B2
5-(4-Chloro-3-methoxy-benzylidene)-10,11-dihydro-5H-dibenzo[a,d]cycloheptene
Following procedures essentially as described in Example 219, below, and using 4-chloro-5-methoxyphenylboronic acid (160 mg, 0.78 mmol) and 5-bromomethylene-10,11-dihydro-5H-dibenzo[a,d]cycloheptene (222 mg, 0.85 mmol) provides 80 mg of title compound in 23% yield as a colorless oil. HPLC shows 92% purity.

reactant | 4-chloro-5-methoxyphenylboronic acid | 0.78 mmol, 160 mg | ClC1=CC=C(C=C1OC)B(O)O | C7H8BClO3
reactant | 5-bromomethylene-10,11-dihydro-5H-dibenzo[a,d]cycloheptene | 0.85 mmol, 222 mg | BrC=C1C2=C(CCC3=C1C=CC=C3)C=CC=C2 | C16H13Br
product | 5-(4-Chloro-3-methoxy-benzylidene)-10,11-dihydro-5H-dibenzo[a,d]cycloheptene | 80 mg, 23% yield | ClC1=C(C=C(C=C2C3=C(CCC4=C2C=CC=C4)C=CC=C3)C=C1)OC | C23H19ClO
